US06274608B1
(2S)-2-(2-Benzoylphenylamino)-3-(4-(1 -(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid methyl ester
A solution of 1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-ethanol (184 mg; 0.75 mmol), triphenylphosphine (268 mg; 1.0 mmol), diethyl azodicarboxylate (0.161 ml; 1.0 mmol) and (2S)-2-((2-benzoylphenyl)amino)-3-(4-hydroxyphenyl)-propionic acid methyl ester (190 mg; 0.5 mmol) in THF (10 ml) was stirred at 0° C. for 1.5 hours and for 16 hours at room temperature. The reaction mixture was evaporated and the residue was purified on column chromatography using methylene chloride as eluent. Yield 118 mg.

reactant | 1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-ethanol | 0.75 mmol, 184 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)O | C17H26O
reactant | triphenylphosphine | 1.0 mmol, 268 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 0.161 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2S)-2-((2-benzoylphenyl)amino)-3-(4-hydroxyphenyl)-propionic acid methyl ester | 0.5 mmol, 190 mg | COC([C@H](CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C23H21NO4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2S)-2-(2-Benzoylphenylamino)-3-(4-(1 -(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)OC(C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C40H45NO4
